US08487094B2
To a solution of (2-isocyanatocyclopropyl)benzene (800 mg, 5.03 mmol) in THF (15 mL) was added DBU (1.61 g, 10.48 mmol) and 1-chloro-3-phenylhex-5-en-3-ol (880 mg, 4.19 mmol), and the mixture was refluxed overnight. The solution was diluted with EtOAc, and washed with 1 N HCl (2×15 mL). The aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to give crude product, which was purified by preparative TLC to afford 6-allyl-6-phenyl-3-(2-phenylcyclopropyl)-1,3-oxazinan-2-one (100 mg, 6%). 1H NMR (CDCl3): 1.05-1.21 (m, 3H), 1.36-1.42 (m, 1H), 2.13-2.34 (m, 1H), 2.39-2.61 (m, 2H), 2.92-3.15 (m, 1H), 3.76-4.01 (m, 1H), 4.95-5.10 (m, 2H), 5.42-5.73 (m, 1H), 6.95-6.99 (m, 1H), 7.10-7.24 (m, 10H).

reactant | (2-isocyanatocyclopropyl)benzene | 5.03 mmol, 800 mg | N(=C=O)C1C(C1)C1=CC=CC=C1 | C10H9NO
reactant | DBU | 10.48 mmol, 1.61 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-chloro-3-phenylhex-5-en-3-ol | 4.19 mmol, 880 mg | ClCCC(CC=C)(O)C1=CC=CC=C1 | C12H15ClO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-allyl-6-phenyl-3-(2-phenylcyclopropyl)-1,3-oxazinan-2-one | 100 mg, 6% | C(C=C)C1(CCN(C(O1)=O)C1C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H23NO2
